US07662811B2
To a solution of (R)-2,2,2-trifluoro-N-(6-(hydroxymethyl)-1,2,3,4-tetrahydronaphthalen-1-yl)acetamide (546 mg, 2 mmol) in 10 mL of dry DCM was added acetic anhydride (0.30 mL, 3 mmol) and triethylamine (0.8 mL, 6 mmol), followed by DMAP (10 mg). After stirring for 2 h at RT, the solution was evaporated to dryness and directly submitted to flash chomatography (SiO2, DCM) to give (R)-(5-(2,2,2-trifluoroacetamido)-5,6,7,8-tetrahydronaphthalen-2-yl)methyl acetate as a white solid.

reactant | (R)-2,2,2-trifluoro-N-(6-(hydroxymethyl)-1,2,3,4-tetrahydronaphthalen-1-yl)acetamide | 2 mmol, 546 mg | FC(C(=O)N[C@@H]1CCCC2=CC(=CC=C12)CO)(F)F | C13H14F3NO2
reactant | acetic anhydride | 3 mmol, 0.30 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethylamine | 6 mmol, 0.8 mL | C(C)N(CC)CC | C6H15N
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 10 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | (R)-(5-(2,2,2-trifluoroacetamido)-5,6,7,8-tetrahydronaphthalen-2-yl)methyl acetate | C(C)(=O)OCC1=CC=2CCC[C@H](C2C=C1)NC(C(F)(F)F)=O | C15H16F3NO3
